US08039463B2
Benzyl alcohol (682 mg, 6.3 mmol), 18 crown ether (2.5 g, 9.4 mmol) and KOH (637 mg, 11.3 mmol) were added to a solution of 2-chloro-5-nitro-pyridine (1 g, 6.3 mmol) in toluene (15 mL) and the reaction mixture was maintained at 80° C. for 2 hours, then diluted with ethyl acetate. The organic layer was washed with brine solution, dried over Na2SO4 and evaporated. The residue was purified by column chromatography using neutral alumina (2% ethyl acetate in hexane) to afford 410 mg (28%) of 2-benzyloxy-5-nitro-pyridine. LCMS: 231.07 (M+1)+, 98.4%

reactant | Benzyl alcohol | 6.3 mmol, 682 mg | C(C1=CC=CC=C1)O | C7H8O
reactant | KOH | 11.3 mmol, 637 mg | [OH-].[K+]
reactant | 2-chloro-5-nitro-pyridine | 6.3 mmol, 1 g | ClC1=NC=C(C=C1)[N+](=O)[O-] | C5H3ClN2O2
solvent | toluene | 15 mL | C1(=CC=CC=C1)C | C7H8
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-benzyloxy-5-nitro-pyridine | 410 mg, 28% | C(C1=CC=CC=C1)OC1=NC=C(C=C1)[N+](=O)[O-] | C12H10N2O3
